US08071584B2
6-Fluoro-2,3-dihydro-1H-indole
To a stirred solution of 6-fluoro-1H-indole (21.0 g, 0.155 mol) in dioxane (210 mL) was added BH3-NEt3 (92 mL, 0.620 mol) and a 12 M solution of HCl (27 mL, 0.326 mol) dropwise. The reaction mixture was stirred at room temperature for 10 min then at reflux for 2.5 h. The mixture was cooled to room temperature, and 6 M HCl (210 mL) was added. The mixture stirred at room temperature for 10 min and then at reflux for 1.5 h. The dioxane was removed under reduced pressure, and the residue diluted with water (500 mL) and washed with diethyl ether (1×250 mL). The aqueous fraction was basified with 10% NaOH and extracted with diethyl ether (3×250 mL). The combined organic layers were washed with water (2×100 mL) and brine (100 mL), dried (Na2SO4) and concentrated under reduced pressure, giving 22.3 g of the title compound.

reactant | 6-fluoro-1H-indole | 0.155 mol, 21.0 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | HCl | 0.326 mol, 27 mL | Cl | ClH
reactant | HCl | 6 M, 210 mL | Cl | ClH
solvent | dioxane | 210 mL | O1CCOCC1 | C4H8O2
product | 6-Fluoro-2,3-dihydro-1H-indole | 22.3 g | FC1=CC=C2CCNC2=C1 | C8H8FN
